US04490374
2,3-Dimethoxy-6-nitrobenzaldehyde-ethyleneketal
A mixture of 2,3-dimethoxy-6-nitrobenzaldehyde (16.0 g, 75 mM), ethylene glycol (64 g, 103 mM), and p-toluenesulfonic acid monohydrate (0.2 g) in benzene (750 ml) is refluxed in a Dean-Stark apparatus for 48 hours. The solution is then poured into water (1 l.). The organic phase is washed with saturated aqueous NaHCO3 (2×20 ml), dried over Na2SO4, filtered, and the solvent removed in vacuo. The crude product is recrystallized from n-hexane (2 l.); yield 15.2 g (78.2%); m.p. 74°-76° C.

reactant | 2,3-dimethoxy-6-nitrobenzaldehyde | 75 mM, 16.0 g | COC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO5
reactant | ethylene glycol | 103 mM, 64 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 1 l | O | H2O
solvent | benzene | 750 ml | C1=CC=CC=C1 | C6H6
product | 2,3-Dimethoxy-6-nitrobenzaldehyde-ethyleneketal | C1COC(C2=C(C(=CC=C2[N+](=O)[O-])OC)OC)O1 | C11H13NO6
